US05405944
The following section describes the process for the manufacture of catechol estrogen glycosides from estradiol as starting material. The first step is that estradiol was reacted with acetic anhydride in pyridine at room temperature for overnight, yielding estradiol diacetate stoichiometrically. Estradiol diacetate was heated at 80° C. in nitrobenzene for 1 hour in tile presence of 2 mol equivalent of aluminum chloride and 0.4 mol equivalent of acetyl chloride, and then 2-acetylestradiol 17-acetate was obtained by 85% yield. 2-Acetylestradiol 17-acetate was reacted with hydrogen peroxide at room temperature for 2 hours maintaining pH in a range between 12.0 and 12.5 by the addition of sodium hydroxide and 2-hydroxyestradiol 17-acetate thus obtained was hydrolyzed by conventional method either in acidic or alkaline condition to form 2-hydroxyestradiol by overall yield of 77%.

reactant | hydrogen peroxide | OO | H2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-hydroxyestradiol 17-acetate | CC(=O)O[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CCC4=CC(=C(C=C34)O)O)C | C20H26O4
product | 2-hydroxyestradiol | yield of 77% | C[C@]12CC[C@@H]3C=4C=C(C(=CC4CC[C@H]3[C@@H]1CC[C@@H]2O)O)O | C18H24O3
